US04097480
Preparation of 2,2-dimethyl-7-methoxy-4-phenyl tetrahydroquinoline
2,2-dimethyl-7-methoxy-4-phenyl dihydroquinoline (contaminated with 2,2,4-trimethyl compound) [60 g] was hydrogenated with 10% Pd/C (1.4 g) in ethanol-acetic acid (200 ml). The reaction mixture was filtered through `Mgflo` and the solvent removed under reduced pressure to give the title compound slightly contaminated with the trimethyl isomer (5 g).

reactant | 2,2-dimethyl-7-methoxy-4-phenyl dihydroquinoline | 60 g | CC1(NC2=CC(=CC=C2C(C1)C1=CC=CC=C1)OC)C | C18H21NO
solvent | ethanol acetic acid | 200 ml | C(C)O.C(C)(=O)O
catalyst | Pd/C | 1.4 g | [Pd] | Pd
product | 2,2-dimethyl-7-methoxy-4-phenyl tetrahydroquinoline | CC1(NC2=CC(=CCC2C(C1)C1=CC=CC=C1)OC)C | C18H23NO
